US04307116
2-Benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylamino-thiazol-4-yl)-acetamido]-8-oxo-3-(2-tosyloxyvinyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (syn isomer, E-form) (1.5 g) is dissolved in a mixture of formic acid (30 cc) and distilled water (10 cc). The solution is heated at 50° C. for 30 minutes. After it has cooled, the precipitate is filtered off and the filtrate is concentrated to dryness under reduced pressure (10 mm Hg) at 30° C. The residue is triturated with diethyl ether (50 cc). The solidified product is filtered off, washed with diethyl ether (two×25 cc) and then dried under reduced pressure (5 mm Hg) at 25° C. 7-[2-(2-Amino-thiazol-4-yl)-2-methoxyimino-acetamido]-2-carboxy-8-oxo-3-(2-tosyloxyvinyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (syn isomer, E-form) (0.75 g) is obtained as a solvate with formic acid.

reactant | 2-Benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylamino-thiazol-4-yl)-acetamido]-8-oxo-3-(2-tosyloxyvinyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 1.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C=COS(=O)(=O)C1=CC=C(C)C=C1)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O | C54H45N5O8S3
solvent | formic acid | 30 cc | C(=O)O | CH2O2
product | 7-[2-(2-Amino-thiazol-4-yl)-2-methoxyimino-acetamido]-2-carboxy-8-oxo-3-(2-tosyloxyvinyl)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 0.75 g | NC=1SC=C(N1)C(C(=O)NC1C2SCC(=C(N2C1=O)C(=O)O)C=COS(=O)(=O)C1=CC=C(C)C=C1)=NOC | C22H21N5O8S3
